US08440666B2
3-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)-6,6-dimethylbicyclo[3.1.1]heptane-2-carbaldehyde
rac-2-[2-(Hydroxymethyl)-6,6-dimethylbicyclo[3.1.1]hept-3-yl]-1H-isoindole-1,3(2H)-dione (750 mg, 2.51 mmol), silica gel (0.75 g) and pyridinium chlorochromate (1.08 g, 5.01 mmol) were stirred in dichloromethane (20 mL) at room temperature for 2 hours. After completion of the reaction, the reaction solution was filtered through celite, and the filtrate was evaporated. The resulting residue was purified by column chromatography (hexane/ethyl acetate=5/1→3/1) to give the desired product (61% yield).

reactant | rac-2-[2-(Hydroxymethyl)-6,6-dimethylbicyclo[3.1.1]hept-3-yl]-1H-isoindole-1,3(2H)-dione | 2.51 mmol, 750 mg | OCC1C2C(C(CC1N1C(C3=CC=CC=C3C1=O)=O)C2)(C)C | C18H21NO3
reactant | pyridinium chlorochromate | 5.01 mmol, 1.08 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)-6,6-dimethylbicyclo[3.1.1]heptane-2-carbaldehyde | 61% yield | O=C1N(C(C2=CC=CC=C12)=O)C1C(C2C(C(C1)C2)(C)C)C=O | C18H19NO3
